US04861891
N-(4-Fluorobenzyl)-2-(4-Fluorophenoxy)-nicotinamide
Sodium hydride dispersion, 60% by weight (167 mg, 4.2 mmol) and 25 ml dimethylformamide (DMF) is placed in a 65 ml round bottom flask equipped with a stir bar and a reflux condenser under nitrogen. P-fluorophenol (430 mg, 3.8 mmol) is added to the reaction mixture and stirred for one hour. The chloronicotinamide (850 mg, 3.2 mmol) is then added and the reaction heated to reflux for 16 hours. The mixture is then cooled to room temperature and poured into 50 ml of water. This is extracted with ethyl acetate (2×50 ml), and the combined organics washed with 1M NaOH (2×50 ml), water (2×50 ml) and brine (1×50 ml). The ethyl acetate is dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to yield a green oil. This is digested in diethyl ether, and the resulting green crystals filtered off. The solids are recrystallized in ethanol to yield 283 mg (25.95%) of the title product as a white solid.

reactant | Sodium hydride | [H-].[Na+]
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
reactant | P-fluorophenol | 3.8 mmol, 430 mg | C1=CC(=CC=C1O)F | C6H5FO
reactant | chloronicotinamide | 3.2 mmol, 850 mg | ClC1=C(C(=O)N)C=CC=N1 | C6H5ClN2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | 50 ml | O | H2O
product | N-(4-Fluorobenzyl)-2-(4-Fluorophenoxy)-nicotinamide | 283 mg, 25.95% | FC1=CC=C(CNC(C2=C(N=CC=C2)OC2=CC=C(C=C2)F)=O)C=C1 | C19H14F2N2O2
